US06090839
2-(2-(3-(2,2-Dimethylpropyl)-7-propylbenz[4.5]isoxazol-6-yloxy)ethyl)indole-5-acetic acid
Using the procedures in Example 1, steps F and G, the title compound was prepared from methyl 2-(2-hydroxyethyl)indole-5-acetate and 3-(2,2-dimethylpropyl)-7-propyl-6-hydroxybenz[4,5]isoxazole.

reactant | methyl 2-(2-hydroxyethyl)indole-5-acetate | OCCC=1NC2=CC=C(C=C2C1)CC(=O)OC | C13H15NO3
reactant | 3-(2,2-dimethylpropyl)-7-propyl-6-hydroxybenz[4,5]isoxazole | CC(CC1=NOC2=C1C=CC(=C2CCC)O)(C)C | C15H21NO2
product | 2-(2-(3-(2,2-Dimethylpropyl)-7-propylbenz[4.5]isoxazol-6-yloxy)ethyl)indole-5-acetic acid | CC(CC1=NOC2=C1C=CC(=C2CCC)OCCC=2NC1=CC=C(C=C1C2)CC(=O)O)(C)C | C27H32N2O4
